US07071175B1
Diethyl amine (0.31 mL; 3.0 mmol) was added to a mixture of 2-(cis-4-tert-butoxycarbonylamino-cyclopent-2-enylmethyl)-malonic acid monoethyl ester (0.66 g, 2.0 mmol) in 36% aqueous solution of formaldehyde (0.25 mL, 3.2 mmol), CH2Cl2 (1.6 mL) and water (1.6 mL) at 0° C. The reaction mixture was stirred at room temperature overnight, poured onto ice-water (400 mL) and extracted with CH2Cl2. During the extraction, phase separation was improved by the addition of brine. The combined organic phases were washed with 5% NaHCO3, dried and concentrated under reduced pressure to yield 2-(cis-4-tert-butoxycarbonylamino-cyclopent-2-enylmethyl)-acrylic acid ethyl ester (0.56 g, 94%) as an oil.

reactant | Diethyl amine | 3.0 mmol, 0.31 mL | C(C)NCC | C4H11N
reactant | 2-(cis-4-tert-butoxycarbonylamino-cyclopent-2-enylmethyl)-malonic acid monoethyl ester | 2.0 mmol, 0.66 g | C(C)OC(C(C(=O)O)C[C@@H]1C=C[C@@H](C1)NC(=O)OC(C)(C)C)=O | C16H25NO6
reactant | formaldehyde | 3.2 mmol, 0.25 mL | C=O | CH2O
reactant | CH2Cl2 | 1.6 mL | C(Cl)Cl | CH2Cl2
solvent | water | 1.6 mL | O | H2O
product | 2-(cis-4-tert-butoxycarbonylamino-cyclopent-2-enylmethyl)-acrylic acid ethyl ester | 0.56 g, 94% | C(C)OC(C(=C)C[C@@H]1C=C[C@@H](C1)NC(=O)OC(C)(C)C)=O | C16H25NO4
